US07906660B2
7-Acetoxyisoflavone was prepared from 7-hydroxyisoflavone (2.6 g, 10.9 mmol), acetic anhydride (16 ml) and pyridine (3.0 ml) as described for 4′,7-diacetoxydaidzein. Yield: (2.5 g, 82%) m.p. 133° C. 1H NMR (CDCl3): δ 2.36 (s, 3H, OCOCH3), 7.18 (dd, 1H, J 2.2 Hz 8.6 Hz, H6), 7.31 (d, 1H, J 2.2 Hz H8), 7.39-7.57 (m, 5H, ArH), 8.00 (s, 1H, H2), 8.33 (d, 1H, J 8.6 Hz, H5). Mass spectrum: m/z 280 (M, 28%); 237-(98); 238 (57).

reactant | 7-hydroxyisoflavone | 10.9 mmol, 2.6 g | OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | acetic anhydride | 16 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 3.0 ml | N1=CC=CC=C1 | C5H5N
product | 7-Acetoxyisoflavone | C(C)(=O)OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C17H12O4
